US06972288B1
4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-(N-[(ethoxycarbonyl)-methyl]-N-[2-(methylcarbonyloxy)ethyl]amino]-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline
47 μl of acetic anhydride and catalytic amounts of 4-dimethyl-aminopyridine are added to 250 mg of 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-{N-[(ethoxycarbonyl)methyl]-N-(2-hydroxyethyl)amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline in 2 ml of methylene chloride. The reaction mixture is stirred overnight at ambient temperatures and then evaporated to dryness. The crude product is purified by chromatography on a silica gel column with methylene chloride, followed by methylene chloride/methanol (9:1) as eluant. Yield: 150 mg (56% of theory), Melting point: 90-92° C. Mass spectrum (ESI+): m/z=614, 616 [M+H]+

reactant | acetic anhydride | 47 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-{N-[(ethoxycarbonyl)methyl]-N-(2-hydroxyethyl)amino}-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline | 250 mg | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN(CCO)CC(=O)OCC)=O)OCC1CC1 | C28H31ClFN5O5
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(4-(N-[(ethoxycarbonyl)-methyl]-N-[2-(methylcarbonyloxy)ethyl]amino]-1-oxo-2-buten-1-yl)amino]-7-cyclopropylmethoxy-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)NC(C=CCN(CCOC(=O)C)CC(=O)OCC)=O)OCC1CC1 | C30H33ClFN5O6
